US05360800
N,N,5-Trimethyl-4-[(2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido[4,3-b]indol-2-yl)methyl]-1H-imidazole-1-sulphonamide
A solution of dimethylsulphamoyl chloride (0.107 ml) in dry dichloromethane was added to a stirred solution of 2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one (0.294 g) and triethylamine (0.2 ml) in dry dichloromethane (30 ml) under nitrogen, and the mixture was heated at reflux for ca. 24 h. After cooling the solution was concentrated onto FCC silica and purified by FCC eluting with System A (150:8:1) to give an oil. This oil was triturated with ether to give a solid which was further purified by slow evaporation from a solution in ethyl acetate to give the title compound (122 mg), m.p. 194°-196°, t.l.c. (System A, 100:8:1) Rf 0.43.

reactant | dimethylsulphamoyl chloride | 0.107 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 2,3,4,5-tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 0.294 g | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | C17H18N4O
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N,N,5-Trimethyl-4-[(2,3,4,5-tetrahydro-5-methyl-1-oxo-1H-pyrido[4,3-b]indol-2-yl)methyl]-1H-imidazole-1-sulphonamide | 122 mg | CN(S(=O)(=O)N1C=NC(=C1C)CN1C(C2=C(N(C=3C=CC=CC23)C)CC1)=O)C | C19H23N5O3S
